US09029549B2
4-{4-[(Cyclohexyloxy)carbonyl]-1,3-thiazol-2-yl}piperidinium chloride (X-1)
Under argon and at 0° C., a 2-molar solution of hydrogen chloride in diethyl ether (50 ml) is added dropwise to a solution of tert-butyl 4-{4-[(cyclohexyloxy)carbonyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate (IX-1, 2.63 g) in dioxane (20 ml). The reaction mixture is stirred at 0° C. and then slowly warmed to room temperature. After stirring overnight, the solvent and excess hydrogen chloride are removed. This gives 4-{4-[(cyclohexyloxy)carbonyl]-1,3-thiazol-2-yl}piperidinium chloride (2.19 g, 99%)

reactant | hydrogen chloride | Cl | ClH
reactant | tert-butyl 4-{4-[(cyclohexyloxy)carbonyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate | 2.63 g | C1(CCCCC1)OC(=O)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C20H30N2O4S
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 4-{4-[(Cyclohexyloxy)carbonyl]-1,3-thiazol-2-yl}piperidinium chloride | [Cl-].C1(CCCCC1)OC(=O)C=1N=C(SC1)C1CC[NH2+]CC1 | InChI=1S/C15H22N2O2S.ClH/c18-15(19-12-4-2-1-3-5-12)13-10-20-14(17-13)11-6-8-16-9-7-11;/h10-12,16H,1-9H2;1H
